US04002769
p-Isopropylbenzyltriphenylphosphonium chloride
p-Isopropylbenzylchloride (168.5 g, 1 mol.) and triphenylphosphine (275 g, 1.05 mol.) were refluxed overnight in acetonitrile (600 ml). Approximately 300 ml of acetonitrile were removed in vacuo and 500 ml ether was added. The salt was allowed to crystallize and the salt was filtered off and washed with ether. Yield of the first crop of crystals was 388 g (90%) of desired salt. Some additional salt could be recovered from the mother liquors.

reactant | p-Isopropylbenzylchloride | 1 mol, 168.5 g | C(C)(C)C1=CC=C(CCl)C=C1 | C10H13Cl
reactant | triphenylphosphine | 1.05 mol, 275 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | p-Isopropylbenzyltriphenylphosphonium chloride | [Cl-].C(C)(C)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C28H28P.ClH/c1-23(2)25-20-18-24(19-21-25)22-29(26-12-6-3-7-13-26,27-14-8-4-9-15-27)28-16-10-5-11-17-28;/h3-21,23H,22H2,1-2H3;1H/q+1;/p-1
